US08420629B2
Step 2. ([3-(methylsulfinyl)-3-(methylthio)cyclobutyl]oxymethyl)benzene
2.5 M of n-butyllithium in hexane (19 mL) was added to a solution of (methylsulfinyl)(methylthio)methane (5.0 g, 0.040 mol) in THF (10 mL) dropwise at −10° C. and the mixture was stirred for 3 h. To the resultant solution was added dropwise [2-bromo-1-(bromomethyl)ethoxy]methylbenzene (4.9 g, 0.016 mol) at −70° C. over 30 min. The mixture was stirred at this temperature for 3 h and then at rt over night. The reaction was diluted with dichloromethane and washed with water. The aqueous phases were extracted with dichloromethane. The organic layers were combined, washed with brine, dried over MgSO4, concentrated and purified with Combiflash (silica gel, 0-55% EtOAc/Hex) to give the desired product (2.4 g, 56%) as brown oil. LCMS (M+Na) 293.3. 1H NMR (400 MHz, CDCl3): δ 7.30 (5H, m), 4.45 (2H, s), 4.33 (1H, m), 2.75 (2H, m), 2.65 (2H, m), 2.41 (3H, s), 2.12 (3H, s) ppm.

reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | (methylsulfinyl)(methylthio)methane | 0.040 mol, 5.0 g | CS(=O)CSC | C3H8OS2
reactant | [2-bromo-1-(bromomethyl)ethoxy]methylbenzene | 0.016 mol, 4.9 g | BrCC(OCC1=CC=CC=C1)CBr | C10H12Br2O
solvent | hexane | 19 mL | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ([3-(methylsulfinyl)-3-(methylthio)cyclobutyl]oxymethyl)benzene | 2.4 g, 56% | CS(=O)C1(CC(C1)OCC1=CC=CC=C1)SC | C13H18O2S2
